US07166604B2
A mixture of equivalent amounts of 4-aminoresorcinol hydrochloride and anhydrous sodium acetate in anhydrous ethanol was stirred for 16 hours at room temperature with a slight excess of tetraethyl orthocarbonate to give 2-ethoxy-6-hydroxybenzoxazole in 60% yield.

reactant | 4-aminoresorcinol hydrochloride | Cl.NC1=C(C=C(O)C=C1)O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | tetraethyl orthocarbonate | C(OCC)(OCC)(OCC)OCC | C9H20O4
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-6-hydroxybenzoxazole | 60% yield | C(C)OC=1OC2=C(N1)C=CC(=C2)O | C9H9NO3
